US04870175
3-fluoro-4-nitrophenol 50 g (0.138 mole), glycine 48 g (0.637 mole) and sodium hydrogen carbonate 107 g (1.27 mole) were added to a mixture of ethanol 600 ml and water 100 ml and refluxed for 5 days. The solvent was distilled off in vacuo. The reaction mixture was acidified by adding dilute HCl and filtered. The filtrate was washed with dilute HCl and water, then dried in vacuo to obtain N-(5-hydroxy-2-nitrophenyl)-amino acetic acid as a yellow solid. Yield: 66.4 g (yield: 98%)

reactant | 3-fluoro-4-nitrophenol | 0.138 mole, 50 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | glycine | 0.637 mole, 48 g | NCC(=O)O | C2H5NO2
reactant | sodium hydrogen carbonate | 1.27 mole, 107 g | C(O)([O-])=O.[Na+]
reactant | ethanol | 600 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | N-(5-hydroxy-2-nitrophenyl)-amino acetic acid | yield: 98% | OC=1C=CC(=C(C1)NCC(=O)O)[N+](=O)[O-] | C8H8N2O5
